US06307087B1
Synthesis of 2-Bromo-2′-methoxy-1,1′-biphenyl
2-Bromoiodobenzene (640 μL, 5.0 mmol) was added to a suspension of Pd(PPh3)4 (305 mg, 0.26 mmol) in DME (100 mL) at room temperature under argon. After 15 min at room temperature, a solution of 2-methoxyphenylboronic acid (760 mg, 5.0 mmol) in ethanol (2 mL) was added, followed by aqueous Na2CO3 (2.0 M, 5 mL, 10 mmol). The reaction vessel was fitted with a reflux condenser and heated to reflux under argon for 22.5 h. The reaction mixture was then cooled to room temperature and filtered through Celite. The filter cake was washed with ether and water, and the filtrate was concentrated in vacuo. The resulting aqueous residue was diluted with brine and extracted with ether. The ethereal layer was dried (MgSO4), filtered and concentrated. The crude residue was purified by flash chromatography on silica gel to afford 823 mg (63%) of a colorless oil.

reactant | 2-Bromoiodobenzene | 5.0 mmol, 640 μL | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | 2-methoxyphenylboronic acid | 5.0 mmol, 760 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 10 mmol, 2.0 M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.26 mmol, 305 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-2′-methoxy-1,1′-biphenyl | 823 mg, 63% | BrC1=C(C=CC=C1)C1=C(C=CC=C1)OC | C13H11BrO
